US04447422
(a) 2-Furfurylamino-5-ethoxycarbonyl-4-hydroxypyrimidine
2-Methylthio-5-ethoxycarbonyl-4-hydroxypyrimidine (535 mg, 2.5 mmol) was refluxed in butanol overnight with furfurylamine (335 μl, 3.8 mmol). The named product crystallized out and was filtered off (577 mg, 88%).

reactant | 2-Methylthio-5-ethoxycarbonyl-4-hydroxypyrimidine | 2.5 mmol, 535 mg | CSC1=NC=C(C(=N1)O)C(=O)OCC | C8H10N2O3S
reactant | furfurylamine | 3.8 mmol, 335 μl | C(C1=CC=CO1)N | C5H7NO
solvent | butanol | C(CCC)O | C4H10O
product | 2-Furfurylamino-5-ethoxycarbonyl-4-hydroxypyrimidine | C(C1=CC=CO1)NC1=NC=C(C(=N1)O)C(=O)OCC | C12H13N3O4
